US08110581B2
2-(trans-4-Hydroxycyclohexyl)-7-(6-methoxypyridin-2-yl)-2,7-diazaspiro[4.5]decan-1-one
A mixture of 2-(trans-4-hydroxycyclohexyl)-2,7-diazaspiro[4.5]decan-1-one hydrochloride (35 mg, 0.00012 mol), 2-bromo-6-methoxypyridine (34 mg, 0.00018 mol), triethylamine (200 μL, 0.001 mol), and copper(I) iodide (28 mg, 0.00014 mol) in N-methylpyrrolidinone (1.0 mL, 0.010 mol) was microwave irradiated at 180° C. for 20 min. After allowing the reaction mixture to cool to rt the crude mixture was purified by prep.-HPLC to afford 8.3 mg of the desired product. LC-MS: 360.3 (M+H)+.

reactant | 2-(trans-4-hydroxycyclohexyl)-2,7-diazaspiro[4.5]decan-1-one hydrochloride | 0.00012 mol, 35 mg | Cl.O[C@@H]1CC[C@H](CC1)N1C(C2(CC1)CNCCC2)=O
reactant | 2-bromo-6-methoxypyridine | 0.00018 mol, 34 mg | BrC1=NC(=CC=C1)OC | C6H6BrNO
reactant | triethylamine | 0.001 mol, 200 μL | C(C)N(CC)CC | C6H15N
reactant | N-methylpyrrolidinone | 0.010 mol, 1.0 mL | CN1C(CCC1)=O | C5H9NO
catalyst | copper(I) iodide | 0.00014 mol, 28 mg | [Cu]I
product | 2-(trans-4-Hydroxycyclohexyl)-7-(6-methoxypyridin-2-yl)-2,7-diazaspiro[4.5]decan-1-one | 8.3 mg | O[C@@H]1CC[C@H](CC1)N1C(C2(CC1)CN(CCC2)C2=NC(=CC=C2)OC)=O | C20H29N3O3
